* G:\My Drive\Graduate Reserach\LTSpice\Buck\Buck_Vout_D.asc
V1 N001 N007 12
M1 N001 NC_01 N002 N002 NMOS ron = 0.8m Coss = {Coss}
M2 N002 NC_02 0 0 NMOS ron = 0.8m Coss = {Coss}
L1 N003 N004 330n
V2 N004 N006 4
R2 N006 0 5m
C1 N005 0 4.7µ
R4 N004 N005 2m
R1 N003 N002 0.0064
D1 N002 N001 D Vf={Vf} Ron={1m} Cd=0.67n
D2 0 N002 D Vf={Vf} Ron={1m} Cd=0.67n
R3 N007 0 1m
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Lf = 1u
.param Coss = 0.67n
.param Vf = 1
.param ts = [1u 1n 1u 1n]
.param swvec = [1 0 0 0; 0 0 0 0; 0 1 0 0; 0 0 0 0]
.tran 1
.backanno
.end
